US09278910B2
Prepared using General Procedure 5: A solution of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-nitrobenzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-3 (888 mg, 1.47 mmol) in THF (15 mL) was hydrogenated in an H-Cube (55 mmol Pd/C cartridge, 1 mL/min, 15 mL volume). The reaction mixture was concentrated to provide 896 mg of crude 4-((4-amino-N-(2-(tert-butoxy)-2-oxoethyl)benzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-4. The crude material was carried forward without further purification. LCMS-ESI (m/z) calculated for C34H42N2O6: 574; found 475 [M+H-Boc]+, tR=3.48 min (Method 5). 1H NMR (400 MHz, CDCl3) δ 8.20-8.04 (m, 2H), 7.44-7.26 (m, 4H), 7.19 (d, J=8.1 Hz, 2H), 7.01-6.90 (m, 2H), 6.63 (d, J=8.3 Hz, 2H), 4.73 (s, 2H), 4.04 (t, J=6.6 Hz, 2H), 3.80-3.67 (m, 2H), 1.89-1.76 (m, 2H), 1.45 (s, 9H), 1.42-1.23 (m, 8H), 0.90 (t, J=6.9 Hz, 3H).

reactant | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-nitrobenzamido)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)CC(=O)OC(C)(C)C)C=C1 | C34H40N2O8
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 55 mmol | [Pd] | Pd
product | 4-((4-amino-N-(2-(tert-butoxy)-2-oxoethyl)benzamido)methyl)phenyl 4-(heptyloxy)benzoate | 896 mg | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)N)=O)CC(=O)OC(C)(C)C)C=C1 | C34H42N2O6
